US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-(4-fluoro-phenyl)acetamide
1-Hydroxybenzotriazole (273 mg, 2.0 mmol), 4-fluoroaniline (0.095 ml, 1.0 mmol) and N-methylmorpholine (0.222 ml, 2.0 mmol) were added to a solution of (4-dimethylamino-4-phenylcyclohexylidene)acetic acid hydrochloride (296 mg, 1.0 mmol) in dry dimethylformamide (10 ml) under argon. The solution was cooled to 0° C. and dicyclohexylcarbodiimide (417 mg, 2.0 mmol) was added. The reaction mixture was stirred at RT for 7 d. Working up of the mixture was carried out by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Still further urea thereby precipitated out and was separated off. 5 M sodium hydroxide solution (4 ml, 20 mmol) was added to the aqueous phase and the mixture was diluted with water (300 ml) and stored at 5° C. for 3 d. The product thereby precipitated out as a colourless solid in a yield of 82% (287 mg).

reactant | 1-Hydroxybenzotriazole | 2.0 mmol, 273 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-fluoroaniline | 1.0 mmol, 0.095 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | N-methylmorpholine | 2.0 mmol, 0.222 ml | CN1CCOCC1 | C5H11NO
reactant | (4-dimethylamino-4-phenylcyclohexylidene)acetic acid hydrochloride | 1.0 mmol, 296 mg | Cl.CN(C1(CCC(CC1)=CC(=O)O)C1=CC=CC=C1)C
reactant | dicyclohexylcarbodiimide | 2.0 mmol, 417 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium hydroxide | 20 mmol, 5 M, 4 ml | [OH-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-(4-fluoro-phenyl)acetamide | yield of 82% | CN(C1(CCC(CC1)=CC(=O)NC1=CC=C(C=C1)F)C1=CC=CC=C1)C | C22H25FN2O
